US07601839B2
A mixture of 5-bromo-3-cyclopentyl-1H-pyrrolo[2,3-b]pyridine (31.8 mg, 0.12 mmol), 3-hydroxyphenylboronic acid (33.1 mg, 0.24 mmol) and 4.2 mg (5 mol %) of dichlorobis(triphenylphosphino)palladium(II) were placed in a vial and 0.8 ml of acetonitrile and 0.8 ml of a 2M aqueous solution of sodium carbonate were added and the mixture irradiated in a Personal Chemistry® microwave reactor to 150° C. for 900 seconds. The resulting mixture was distributed between 15 mL of a saturated aqueous solution of sodium bicarbonate and 30 mL of dichloromethane. The organic phase was dried over sodium sulfate and evaporated. The crude was purified via silica gel chromatography using a gradient of ethyl acetate in hexanes to give 3-(3-Cyclopentyl-1H-pyrrolo[2,3-b]pyridin-5-yl)-phenol (4.5 mg, 14% yield) as off white powder. 1H NMR (500 MHz, CD3OD) δ 8.36 (s, 1H), 8.14 (d, 2 Hz, 1H), 7.29 (t, 8 Hz, 1H), 7.19 (s, 1H), 7.10 (d, 7 Hz, 1H), 7.06 (s, 1H), 6.79 (dd, 2 Hz, 8 Hz, 1H), 2.1 (m, 2H), 1.94 (m, 2H), 1.8 (m, 4H), 1.37 (m, 1H). MS: m/z 279.1 [MH+].

reactant | 5-bromo-3-cyclopentyl-1H-pyrrolo[2,3-b]pyridine | 0.12 mmol, 31.8 mg | BrC=1C=C2C(=NC1)NC=C2C2CCCC2 | C12H13BrN2
reactant | 3-hydroxyphenylboronic acid | 0.24 mmol, 33.1 mg | OC=1C=C(C=CC1)B(O)O | C6H7BO3
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
catalyst | dichlorobis(triphenylphosphino)palladium(II) | 4.2 mg | Cl[Pd-2](P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)(P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)Cl
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
solvent | acetonitrile | 0.8 ml | C(C)#N | C2H3N
product | 3-(3-Cyclopentyl-1H-pyrrolo[2,3-b]pyridin-5-yl)-phenol | 4.5 mg, 14% yield | C1(CCCC1)C1=CNC2=NC=C(C=C21)C=2C=C(C=CC2)O | C18H18N2O
